Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
blurry vision
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old woman with remote history of hypertension
(now off anti-hypertensives), migraines, and GERD c/b frequent
peptic ulcers with one peptic ulceration through gastric wall
necessitating surgery who brought her self into the ED after she
was told by ___ yesterday that she had a stroke on
MRI and would need to be transferred to ___. History obtained
by patient with supplementation by chart review. 

The patient reports that she was in her usual state of health
leading up to ___ afternoon. She smoked 1 marijuana joint on
___, which was not typical for her. She does not think it was
laced. Later that afternoon, she became acutely vertiginous 
after
having a bowel movement. She reports falling off the toilet and
she thinks she lost consciousness. She hit the front of her head
and "has a bruise to prove it." She woke up and got herself up
and walked down to the stairs to her friends. She told them she
fell when they asked her what took her so long, although she is
not sure how much time truly passed. She continued to relax with
her friends but endorses some blurry vision (bilateral) without
diplopia and a minor frontal throbbing headache that was not
positional. She had no gait abnormalities or weakness that she
noticed, although she did endorse some transient tingling in her
abdomen as well as in her left arm that migrated up her hand,
lasting < 1 minute and coming on/off throughout the day. 

Later that night, she was sleeping by her boyfriend when he
noticed that her body suddenly stiffened during sleep and then
started to "full body shake." He reported no incontinence. He
held on to her to prevent her from falling off the bed. This
lasted ___ minutes and he did not try to wake her up when it 
was
over. She woke up unaware of the event until he told her. Later
that day she presented to ___ for evaluation as she 
still
had a throbbing frontal headache with blurry vision. She was a
little nauseous then but did not vomit. At ___, she
reportedly had CTH and MRI and was told she had a stroke and
needed to be transferred to ___ for neurology workup. She did
not want to wait for transfer from ___ and instead 
presented
by herself to ___ on the next day.

Since leaving ___, she endorses the same symptoms of blurry
vision, occasional throbbing frontal headache which is improving
since the initial head injury on ___, and transient rising
sensations of numbness from her abdomen and from her left hand 
up
to her arm. These sensations occur several times a day and last 
a
minute or less. She does not feel confused during these events.

She is uptodate on her cancer screening and says that she had a
normal mammogram ___ years ago and normal colonoscopy recently.
No recent unexpected weight loss, night sweats. No history of
clots in the family. She endorsed a remote history of
palpitations with an anti-hypertensive medication several years
ago but has not felt a similar sensation for years. She has no
history of febrile seizures as a child.
 
ROS: 
====
Positive for blurry vision, nausea, frontal throbbing headache,
left arm rising parasthesias.

Negative for confusion, difficulties producing or comprehending
speech,  diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies focal 
weakness.No
bowel or bladder incontinence or retention. Denies difficulty
with gait.
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash. 

 
Past Medical History:
GERD
visual migraines - sees colors, started getting them after she
turned ___; only gets them with menses
PUD complicated by ruptured ulcer
nephrolithiasis
Abdominal surgery ___ ruptured PUD
 
Social History:
___
Family History:
DM2
CAD
grandmother on mother's side had stroke
no known history of blood clots
no known history of seizures

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands.  There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Very slow with smooth pursuit. Normal saccades. Left
homonymous hemianopsia. OS ___, OD ___. Fundoscopic exam
with crisp optic discs.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No agraphasthesia. No
extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   3     3      3      3     2
R   3     3      3      3     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Some difficulty with walking with tandem.

DISCHARGE PHYSICAL EXAM
=========================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands.  There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. Left homonymous hemianopsia.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No agraphasthesia. No
extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   3     3      3      3     2
R   3     3      3      3     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 
 
Pertinent Results:
ADMISSION LABS
================
___ 12:51AM BLOOD WBC-7.9 RBC-4.60 Hgb-14.4 Hct-41.9 MCV-91 
MCH-31.3 MCHC-34.4 RDW-12.9 RDWSD-42.2 Plt ___
___ 12:51AM BLOOD Neuts-49.2 ___ Monos-5.3 Eos-1.4 
Baso-0.5 Im ___ AbsNeut-3.88 AbsLymp-3.43 AbsMono-0.42 
AbsEos-0.11 AbsBaso-0.04
___ 08:05PM BLOOD Neuts-53.9 ___ Monos-4.4* Eos-2.0 
Baso-0.3 Im ___ AbsNeut-3.43 AbsLymp-2.50 AbsMono-0.28 
AbsEos-0.13 AbsBaso-0.02
___ 08:05PM BLOOD ___ PTT-27.5 ___
___ 09:24AM BLOOD ___ PTT-28.1 ___
___ 05:15AM BLOOD ___ PTT-27.8 ___
___ 12:51AM BLOOD Plt ___
___ 09:24AM BLOOD ProtCFn-102 ProtSFn-87
___ 09:24AM BLOOD Lupus-NEG
___ 12:51AM BLOOD Glucose-95 UreaN-18 Creat-0.8 Na-140 
K-4.0 Cl-101 HCO3-24 AnGap-15
___ 08:05PM BLOOD Glucose-178* UreaN-13 Creat-0.7 Na-139 
K-3.8 Cl-101 HCO3-25 AnGap-13
___ 08:05PM BLOOD ALT-5 AST-13 LD(LDH)-176 CK(CPK)-538* 
AlkPhos-56 TotBili-0.4
___ 12:51AM BLOOD ALT-7 AST-13 AlkPhos-61 TotBili-0.2
___ 08:05PM BLOOD GGT-15
___ 12:51AM BLOOD Lipase-32
___ 08:05PM BLOOD CK-MB-1 cTropnT-<0.01
___ 12:51AM BLOOD cTropnT-<0.01
___ 08:05PM BLOOD TotProt-6.7 Albumin-4.0 Globuln-2.7 
Cholest-148
___ 12:51AM BLOOD Albumin-4.4 Cholest-161
___ 08:05PM BLOOD D-Dimer-426
___ 05:15AM BLOOD D-Dimer-390
___ 08:05PM BLOOD %HbA1c-4.9 eAG-94
___ 12:51AM BLOOD %HbA1c-5.1 eAG-100
___ 08:05PM BLOOD Triglyc-119 HDL-39* CHOL/HD-3.8 
LDLcalc-85
___ 12:51AM BLOOD Triglyc-128 HDL-44 CHOL/HD-3.7 LDLcalc-91
___ 08:05PM BLOOD TSH-0.60
___ 12:51AM BLOOD TSH-1.6
___ 08:05PM BLOOD CRP-5.3*
___ 09:24AM BLOOD CRP-6.4*
___ 12:51AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

DISCHARGE LABS
==================
___ 05:15AM BLOOD WBC-5.7 RBC-4.39 Hgb-13.5 Hct-39.8 MCV-91 
MCH-30.8 MCHC-33.9 RDW-12.5 RDWSD-41.1 Plt ___
___ 05:15AM BLOOD Plt ___
___ 05:15AM BLOOD Glucose-96 UreaN-15 Creat-0.7 Na-139 
K-4.2 Cl-100 HCO3-26 AnGap-13
___ 05:15AM BLOOD Calcium-9.1 Phos-4.0 Mg-1.7

IMAGING
========
CTA HEAD W&W/O C & RECONS Study Date of ___  
IMPRESSION:
1. Severe luminal stenosis of the proximal P2 segment of the 
right PCA, with segments distal to this not well seen/opacified. 
 Relative oligemia of the right temporo-occipital PCA 
distribution infarct. 
2. 2 x 2 mm posteromedially projecting infundibulum arising from 
the expected location of the origin of the right posterior 
communicating artery. 
3. Mild focal luminal stenosis of the proximal segment of the 
right MCA 
presumably due to underlying atheromatous disease. 
4. Otherwise, patent and unremarkable circle ___ vasculature. 

5. Hypodensity in the right medial temporal and occipital lobes 
corresponding to known acute infarct in this location.  No 
acuteintracranial hemorrhage. 
6. Patent bilateral vertebral and carotid arteries in the neck.  
No ICA 
stenosis by NASCET criteria. 

BILAT LOWER EXT VEINS Study Date of ___
IMPRESSION:  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins.

MRI: OSH

TTE ___
The left atrial volume index is normal. There is no evidence of 
an atrial septal defect or patent foramen ovale by 2D/color 
Doppler or agitated saline at rest and with maneuvers. The 
estimated right atrial
pressure is ___ mmHg. There is normal left ventricular wall 
thickness with a normal cavity size. There is normal regional 
left ventricular systolic function. Overall left ventricular 
systolic function is normal.
Quantitative biplane left ventricular ejection fraction is 69 %. 
Left ventricular cardiac index is normal (>2.5 L/min/m2). Tissue 
Doppler suggests a normal left ventricular filling pressure 
(PCWP less than
12mmHg). There is normal diastolic function. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender.
The aortic arch diameter is normal. The aortic valve leaflets 
(?#) appear structurally normal. There is no aortic valve 
stenosis. There is no aortic regurgitation. The mitral valve 
leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is trivial 
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion.

IMPRESSION: No structural cardiac source of embolism (e.g.patent 
foramen ovale/atrial septal defect, intracardiac thrombus, or 
vegetation) seen.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a past medical history of 
diet-controlled hypertension, migraines, and GERD complicated by 
frequent peptic ulcers with one peptic ulceration who presented 
to ___ with with blurry vision, witnessed 
generalized tonic clonic seizure at home. There, MRI 
demonstrated posterior circulation stroke and she was referred 
to ___ for further management. 

#Right PCA infarct:
Reported becoming acutely vertiginous at home while bearing down 
on toilet. Later developed bilateral blurry vision, throbbing 
frontal headache, transient tingling in left upper extremity. 
Notably smoked 1 marijuana joint prior to symptom onset. That 
evening, had one generalized tonic clonic seizure witnessed by 
partner in bed, (see #GTC below). Presented to OSH where MRI 
demonstrated "stroke". Transferred to ___. Here, NIHSS was ___xam notable for left homonymous hemianopsia 
and decreased visual acuity bilaterally. Imaging notable for MRI 
with right acute PCA territory infarct involving mesial 
temporal, right occipital lobe, right lateral thalamus. CTA with 
diminished flow through the right PCA. TTE with bubble study was 
unremarkable, thus clinically significant PFO is unlikely. Will 
have ___ arranged as outpatient (ordered prior to discharge). 
Hypercoagulability workup was unremarkable (bilateral DVT 
ultrasounds, d-dimer, sed rate, beta 2 glycoprotein, 
cardiolipin, lupus anticoagulant all negative, not pregnant with 
no family history of hypercoagulable state). In terms of her 
risk factors, she is an active smoker with a 33 pack year 
smoking history. Stroke risk factors notable for HgA1C: 4.9, 
LDL: 85. She was initiated on aspirin 81 mg daily, atorvastatin 
40 mg daily. Etiology of her stroke is unclear, she may have had 
embolus through her posterior circulation during valsalva. The 
tingling in her left extremity may be the result of thalamic 
involvement of her stroke. She will have TEE performed as an 
outpatient, this study was ordered prior to discharge. A ___ of 
hearts monitor was also placed prior to discharge. ___ and OT 
recommended discharge home with outpatient ___. At the 
time of discharge, she continued to have left homonymous 
hemianopsia.

#Generalized tonic clonic seizure:
Witnessed first-time seizure while in bed with her partner. 
Described as her body suddenly stiffening during sleep and 
subsequent "full body shaking." Lasted ___ minutes at most. 
Patient was unaware of this event. EEG on admission did not 
capture any seizure activity. ___ have occurred in hyperacute 
period following stroke as above. Given recurrence rate of 30% 
after first unprovoked seizure, antiepileptic agent initiation 
was deferred. Patient was counseled prior to discharge to NOT 
drive for the next 6 months and she expressed understanding of 
this plan.

#GERD:
Continued home omeprazole.

#HTN:
Reported as diet-controlled. Remained normotensive in-house.

TRANSITIONAL ISSUES:
======================
[] please ensure TEE scheduling (order placed prior to discharge 
___
[] continue to monitor for additional seizures
[] discharged with ___ of hearts monitor, ___ results
[] initiated aspirin 81 mg daily, atorvastatin 40 mg daily for 
stroke prevention
[] continue to encourage smoking cessation (smokes ___ PPD, ___ 
year pack history)

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 85) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? () Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 21 mg/24 hour 1 patch daily daily 
Disp #*30 Patch Refills:*0 
4.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
5.Outpatient Occupational Therapy
ICD 10 ___.82

6.Outpatient Physical Therapy
ICD10 ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#R PCA infarct
#Generalized tonic clonic seizure
#GERD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

 You were hospitalized due to symptoms of blurry vision 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
 1) high cholesterol

 We are changing your medications as follows:  
 1) addition of "aspirin" to help keep your blood thin to 
prevent you from getting future strokes
 2) addition of "atorvastatin" to help lower your cholesterol

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Additionally, you had a seizure at home before you came to the 
hospital. You also have difficulty with your vision from your 
stroke. In accordance with ___ law, you should 
not drive for the next 6 months. You will be evaluated by a 
doctor within the next 6 months, at that time it will be 
determined when you may resume driving.

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___